US07906528B2
To a solution of 2-chloro-5-methyl-3-nitro-pyridine (20 g, 0.12 mol) in 300 mL of ethanol is added SnCl2 (132 g, 0.7 mol) slowly to keep internal temperature under 50° C. After addition completed, the reaction mixture is stirred for additional two hours at 50-55° C., then evaporated to dryness under reduced pressure. The residue is suspended in 400 mL of DCM, cooled with an ice bath, and neutralized carefully with 10N NaOH. The mixture is filtered through celite, washed the cake with DCM (100 mL×2). The filtrate is washed with water and brine, dried over MgSO4, and concentrated under reduced pressure to give 16.5 g of 2-chloro-5-methyl-pyridin-3-ylamine.

reactant | 2-chloro-5-methyl-3-nitro-pyridine | 0.12 mol, 20 g | ClC1=NC=C(C=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | SnCl2 | 0.7 mol, 132 g | Cl[Sn]Cl
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-chloro-5-methyl-pyridin-3-ylamine | 16.5 g | ClC1=NC=C(C=C1N)C | C6H7ClN2
